* SPICE3 file created from VCO.ext - technology: sky130A
.include sky130nm.lib
.option scale=0.01u

XM1000 GND VCtrl a_19_462# GND sky130_fd_pr__nfet_01v8 w=84 l=15
+  ad=2436 pd=227.415 as=2436 ps=226
XM1001 a_653_144# a_553_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1002 a_453_144# a_353_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1003 a_553_144# a_453_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1004 a_353_144# a_253_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1005 a_253_144# a_153_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1006 a_153_144# a_109_205# a_109_144# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=124.6
XM1007 Clk_Out a_109_205# a_393_418# VDD sky130_fd_pr__pfet_01v8 w=108 l=15
+  ad=3132 pd=274 as=3185.05 ps=291.789
XM1008 a_109_205# a_653_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=240 l=15
+  ad=7200 pd=540 as=6960 ps=665.6
XM1009 a_653_144# a_553_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1010 a_109_205# a_653_144# a_109_144# GND sky130_fd_pr__nfet_01v8 w=120 l=15
+  ad=3480 pd=298 as=3480 ps=356
XM1011 a_453_144# a_353_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1012 a_553_144# a_453_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1013 a_353_144# a_253_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1014 a_393_418# ENb VDD VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1238.63 pd=113.474 as=1386 ps=150
XM1015 GND VCtrl a_109_144# GND sky130_fd_pr__nfet_01v8 w=108 l=15
+  ad=3132 pd=292.39 as=3132 ps=320.4
XM1016 a_253_144# a_153_144# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1017 a_153_144# a_109_205# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=116.48
XM1018 Clk_Out a_109_205# GND GND sky130_fd_pr__nfet_01v8 w=54 l=15
+  ad=1566 pd=166 as=1566 ps=146.195
XM1019 a_393_418# a_19_462# a_19_462# VDD sky130_fd_pr__pfet_01v8 w=84 l=15
+  ad=2477.26 pd=226.947 as=2436 ps=226
XM1020 a_393_418# a_19_462# a_109_253# VDD sky130_fd_pr__pfet_01v8 w=108 l=15
+  ad=3185.05 pd=291.789 as=3132 ps=299.52
C0 a_353_144# a_453_144# 0.12fF
C1 a_353_144# a_253_144# 0.12fF
C2 a_19_462# a_453_144# 0.01fF
C3 a_653_144# Clk_Out 0.03fF
C4 a_109_205# a_393_418# 0.23fF
C5 a_19_462# VCtrl 0.04fF
C6 a_19_462# ENb 0.01fF
C7 VDD a_453_144# 0.02fF
C8 VDD a_253_144# 0.02fF
C9 a_653_144# a_393_418# 0.01fF
C10 a_109_205# a_553_144# 0.19fF
C11 VDD VCtrl 0.01fF
C12 VDD ENb 0.14fF
C13 a_109_205# a_109_144# 0.22fF
C14 a_353_144# VDD 0.02fF
C15 a_19_462# VDD 0.43fF
C16 a_653_144# a_553_144# 0.11fF
C17 a_653_144# a_109_144# 0.17fF
C18 a_109_205# a_109_253# 0.31fF
C19 a_393_418# a_453_144# 0.02fF
C20 a_653_144# a_109_253# 0.17fF
C21 a_393_418# ENb 0.36fF
C22 a_553_144# a_453_144# 0.12fF
C23 Clk_Out VDD 0.01fF
C24 a_393_418# a_353_144# 0.01fF
C25 a_109_205# a_153_144# 0.21fF
C26 a_109_144# a_453_144# 0.18fF
C27 a_393_418# a_19_462# 0.28fF
C28 a_109_144# a_253_144# 0.18fF
C29 ENb a_553_144# 0.00fF
C30 VCtrl a_109_144# 0.11fF
C31 a_393_418# VDD 0.49fF
C32 a_353_144# a_553_144# 0.04fF
C33 a_109_253# a_453_144# 0.19fF
C34 a_353_144# a_109_144# 0.18fF
C35 a_19_462# a_553_144# 0.00fF
C36 a_109_253# a_253_144# 0.18fF
C37 a_19_462# a_109_144# 0.01fF
C38 ENb a_109_253# 0.10fF
C39 VDD a_553_144# 0.02fF
C40 VDD a_109_144# 0.38fF
C41 a_353_144# a_109_253# 0.19fF
C42 a_19_462# a_109_253# 0.05fF
C43 a_393_418# Clk_Out 0.13fF
C44 VDD a_109_253# 0.13fF
C45 a_153_144# a_253_144# 0.12fF
C46 a_153_144# VCtrl 0.00fF
C47 Clk_Out a_109_144# 0.01fF
C48 a_153_144# a_353_144# 0.04fF
C49 a_393_418# a_553_144# 0.01fF
C50 Clk_Out a_109_253# 0.03fF
C51 a_109_205# a_653_144# 0.26fF
C52 a_153_144# VDD 0.02fF
C53 a_393_418# a_109_253# 0.33fF
C54 a_109_144# a_553_144# 0.18fF
C55 a_109_253# a_553_144# 0.18fF
C56 a_109_144# a_109_253# 0.33fF
C57 a_109_205# a_453_144# 0.15fF
C58 a_109_205# a_253_144# 0.17fF
C59 a_109_205# VCtrl 0.00fF
C60 a_109_205# ENb 0.07fF
C61 a_653_144# a_453_144# 0.04fF
C62 a_109_205# a_353_144# 0.15fF
C63 a_109_205# a_19_462# 0.00fF
C64 a_653_144# ENb 0.03fF
C65 a_153_144# a_109_144# 0.24fF
C66 a_109_205# VDD 0.25fF
C67 a_153_144# a_109_253# 0.17fF
C68 a_653_144# VDD 0.02fF
C69 a_453_144# a_253_144# 0.04fF
C70 a_109_205# Clk_Out 0.13fF
C71 VDD GND 0.09fF
C72 VCtrl GND 0.28fF
C73 a_553_144# GND 0.31fF
C74 a_453_144# GND 0.31fF
C75 a_353_144# GND 0.31fF
C76 a_253_144# GND 0.33fF
C77 a_153_144# GND 0.32fF
C78 a_109_205# GND 1.62fF
C79 a_109_253# GND 1.89fF
C80 a_109_144# GND 1.78fF
C81 a_653_144# GND 0.33fF
C82 a_393_418# GND 0.66fF
C83 a_19_462# GND 1.44fF

v1 VDD 0 1.8
v2 VCtrl 0 0.6
v3 ENb 0 0

.ic v(Clk_Out) = 0
.control 
tran 0.1ns 0.5us
plot v(Clk_Out) v(VCtrl)
.endc